US06825188B2
b) (±)-8-[3-(4-Aminopyridin-2-ylamino)-1-propyloxy]-2-methyl-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetic acid
According to the procedure of Example 1(c), except substituting methyl (±)-8-[3-(4-aminopyridin-2-ylamino)-1-propyloxy]-2-methyl-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate for the ethyl (±)-8-[3-[2-pyridylamino)-1-propyloxy]-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate, the title compound was prepared as a white solid: MS (ES) m/e 399 (M+H)+. Anal. Calcd for C21H26N4O4.1.5CF3CO2H.0.125H2O: C, 50.62: H, 4.91; N, 9.83. Found: C, 50.63; H 5.26; N, 9.90.

reactant | methyl (±)-8-[3-(4-aminopyridin-2-ylamino)-1-propyloxy]-2-methyl-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate | NC1=CC(=NC=C1)NCCCOC1=CC2=C(CC(C(N(C2)C)=O)CC(=O)OC)C=C1 | C22H28N4O4
reactant | ethyl (±)-8-[3-[2-pyridylamino)-1-propyloxy]-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate | N1=C(C=CC=C1)NCCCOC1=CC2=C(CC(C(NC2)=O)CC(=O)OCC)C=C1 | C22H27N3O4
product | (±)-8-[3-(4-Aminopyridin-2-ylamino)-1-propyloxy]-2-methyl-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetic acid | NC1=CC(=NC=C1)NCCCOC1=CC2=C(CC(C(N(C2)C)=O)CC(=O)O)C=C1 | C21H26N4O4
